US08003811B2
Step B: (3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl 3-(2,3-bis(nitrooxy)propoxy)propanoate
The title compound was prepared by following the procedure for the synthesis of EXAMPLE 4, except that in Step F the reagent (S)-5,6-di(nitrooxy)hexanoic acid was replaced by 3-(2,3-bis(nitrooxy)propoxy)propanoic acid obtained as described in Oscar Pamies and Jan-E. Backvall, J. Org. Chem. 2002, 67, 1261-1265) and EXAMPLE 10.

reactant | (S)-5,6-di(nitrooxy)hexanoic acid | [N+](=O)([O-])O[C@@H](CCCC(=O)O)CO[N+](=O)[O-] | C6H10N2O8
reactant | 3-(2,3-bis(nitrooxy)propoxy)propanoic acid | [N+](=O)([O-])OC(COCCC(=O)O)CO[N+](=O)[O-] | C6H10N2O9
product | (3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl 3-(2,3-bis(nitrooxy)propoxy)propanoate | [N+](=O)([O-])OC(COCCC(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O)CO[N+](=O)[O-] | C12H18N2O12
